*BSS138 at Temp. Electrical Model
*-------------------------------------
.SUBCKT BSS138 20 10 30 50
*20=DRAIN 10=GATE 30=SOURCE 50=VTEMP
Rg 10 11x 1
Rdu 12x 1 1u
M1 2 1 4x 4x DMOS L=1u W=1u
.MODEL DMOS NMOS(VTO=1.35 KP=1.1
+THETA=0.1 VMAX=1.5E5 LEVEL=3)
Cgs 1 5x 22p
Rd 20 4 2.3E-1 
Dds 5x 4 DDS
.MODEL DDS D(M=3.93E-1 VJ=9.28E-1 CJO=29p)
Dbody 5x 20 DBODY
.MODEL DBODY D(IS=1.65E-10 N=1.413586 RS=.00148 TT=18.3n)
Ra 4 2 2.3E-1
Rs 5x 5 0.5m
Ls 5 30 0.5n
M2 1 8 6 6 INTER
E2 8 6 4 1 2
.MODEL INTER NMOS(VTO=0 KP=10 LEVEL=1)
Cgdmax 7 4 118p
Rcgd 7 4 10meg
Dgd 6 4 DGD
Rdgd 6 4 10meg
.MODEL DGD D(M=5.05E-1 VJ=6.16E-2 CJO=118p)
M3 7 9 1 1 INTER
E3 9 1 4 1 -2
*ZX SECTION
EOUT 4x 6x poly(2) (1x,0) (3x,0) 0 0 0 0 1
FCOPY 0 3x VSENSE 1
RIN 1x 0 1G
VSENSE 6x 5x 0
RREF 3x 0 10m
*TEMP SECTION
ED 101 0 VALUE {V(50,100)}
VAMB 100 0 25
EKP 1x 0 101 0 .45
*VTO TEMP SECTION
EVTO 102 0 101 0 .001
EVT 12x 11x 102 0 1
*DIODE THEMO BREAKDOWN SECTION
EBL VB1 VB2 101 0 .08
VBLK VB2 0 50
D 20 DB1 DBLK
.MODEL DBLK D(IS=1E-14 CJO=.1p RS=.1)
EDB DB1 0 VB1 0 1
.ENDS BSS138
*BSS138 (Rev.A) 10/13/04 **ST


*BSS138 ELECTRICAL MODEL (SOT-23 Single N-Ch DMOS)
*-----------------------
.SUBCKT  BSS138/FAI  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={1.3*{-0.002*TEMP+1.05}}  KP={-0.0014*TEMP+0.685} 
+ THETA=0.086  VMAX=2.2E5  LEVEL=3)        
Cgs     1    3    40p
Rd     20    4    0.2 TC=0.0065
Dds     3    4    DDS
.MODEL     DDS    D(BV={50*{0.00084*TEMP+0.979}}   M=0.36  CJO=23p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    0.3 TC=0.0065
Rs      3    5    10m
Ls      5    30   .5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    68p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.3   CJO=68p   VJ=0.4)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS 